US04659718
A solution of butyl lithium in hexane (2.7M, 11.1 ml) was added during 2 minutes to a stirred solution of 1,5-dimethyltetrazole (2.94 g) in dry tetrahydrofuran (100 ml) at -10° to -5°. After stirring for 15 minutes, 7-trifluoromethyl-1H-3,1-benzoxazine-2,4-dione (2.3 g) was added during 5 minutes at -10° to -5°. The reaction mixture was stirred at ambient temperature for 1 hour. Industrial methylated spirit (2 ml) was added and the mixture kept at ambient temperature for 1.5 hours. The mixture was evaporated to one quarter volume, then poured on to ice. The mixture was acidified to pH 2 with hydrochloric acid (5N). The solid product was collected, dried and recrystallised from ethyl acetate:diethyl ether to give the novel compound 1-(2-amino-4-trifluoromethylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone, m.p. 200°-201°.

reactant | butyl lithium | C(CCC)[Li]
reactant | 1,5-dimethyltetrazole | 2.94 g | CN1N=NN=C1C | C3H6N4
reactant | 7-trifluoromethyl-1H-3,1-benzoxazine-2,4-dione | 2.3 g | FC(C1=CC2=C(C(OC(N2)=O)=O)C=C1)(F)F | C9H4F3NO3
solvent | hexane | 2.7M, 11.1 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(2-amino-4-trifluoromethylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone | NC1=C(C=CC(=C1)C(F)(F)F)C(CC1=NN=NN1C)=O | C11H10F3N5O
